US04340595
9.7 g (0.029 mole) of 5-methoxy-tetralone-1-oxime benzenesulfonate in 800-900 ml of 50% strength acetic acid are kept on a waterbath until completely dissolved (about 60 minutes). The solution is then diluted with twice its volume of water and the mixture is repeatedly extracted with ether. The combined ether extracts are washed first with aqueous bicarbonate solution and then repeatedly with water, and are dried and concentrated. The residue which remains crystallizes on being left to stand, and is analytically pure. 4.2 g of 6-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one (75.7% yield), of melting point 162° C., are obtained.

reactant | 5-methoxy-tetralone-1-oxime benzenesulfonate | 0.029 mole, 9.7 g | C1(=CC=CC=C1)S(=O)(=O)O.COC1=C2CCCC(C2=CC=C1)=NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 4.2 g, 75.7% yield | COC1=CC=CC2=C1CCCC(N2)=O | C11H13NO2
